US03979360
Following the procedure of Example 8, n-octylamine is reacted with 4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-5-t-butylbenzoyl chloride to yield N-n-octyl-4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-5-t-butylbenzamide.

reactant | n-octylamine | C(CCCCCCC)N | C8H19N
reactant | 4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-5-t-butylbenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)OC2=CC=C(C(=O)Cl)C=C2C(C)(C)C)C=C(C1O)C(C)(C)C | C26H33ClO4
product | N-n-octyl-4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-5-t-butylbenzamide | C(CCCCCCC)NC(C1=CC=C(C(=C1)C(C)(C)C)OC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O | C34H51NO4
